Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Clindamycin / Erythromycin Base / Gentamicin Sulfate / Morphine
 
Attending: ___.
 
Chief Complaint:
Worsening Parkinsons symptoms
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old male with schizophrenia and 
___ disease who presents with 2 days of reported 
difficulty swallowing and increasingly slurred speech.  He 
states that he has been unable to swallow pills for the last 2 
days because of his swallowing difficulties, and has not been 
able to take his medications, including Cogentin and Sinemet.  
The patient is unable to identify a trigger for his acute 
symptoms.  He states that he did have a recent pneumonia that 
may have tipped him off, and that he suffers a continued cough.  
Many people at ___ also have the flu, but the patient 
denies fevers, chills, fatigue, lethargy, nasal congestion, or 
sore throat.  He has been on treatment dose Tamiflu for the past 
2 days as prophylaxis against the flu.  He was referred to the 
ED by his ___ physician for severe ___ 
decompensation.

In the ED, initial vitals were T 97.5, HR 124, BP 142/76, RR 22, 
and SpO2 90% on RA.  Labs were notable for WBC count 13.8.  The 
patient underwent CXR concerning for pneumonia (unclear when 
last bout of pneumonia occurred).  He was evaluated by neurology 
for his symptoms, and was recommended for admission to medicine 
and a bedside swallow so he can resume his medications.
  
On the floor, the patient complains of feeling thirsty.  He also 
expresses concern in his inability to speak clearly.  He denies 
fevers, chills, URI symptoms.  He does complain of mild dry 
cough (not heard while in room).  Per rehab records, patient has 
been progressively declining.  States that he occasionally has 
to be fed and previously was able to assist in transfers and was 
able to walk short distances, but that he is presently unable to 
participate in transfer and does not ambulate due to increased 
weakness.  Also notes that his speech is more garbled and it is 
increasingly difficult to understand when speaking.  Later 
states that he coughs with drinking with increased difficulty 
accepting fluids.

 
Past Medical History:
# Parkinsons Disease
# Schizophrenia
-- visual hallucinations (distortion of visual objects)
-- tactile hallucinations (crawling object on skin)
# Crohn's Disease -- diagnosed in ___
-- Recurrent SBOs with small bowel resections in ___ and ___
-- Last flare was ___
-- Taking Prednisone ___ mg PO DAILY for past ___ years
# Pneumonia (___)
# Orthostatic hypotension
# Possible Myotonic Dystrophy
-- EMG/NCS and blood tests by Dr ___
# Esophageal Dysmotility
# Benign bladder polyp -- resected in ___
# Anterior mediastinal teratoma -- resected in ___
# Bilateral Cataracts

 
Social History:
___
Family History:
# Father: stroke at age ___

 
Physical Exam:
ADMISSION EXAM:
VS: T 99.4, BP 152/58, HR 110, RR 24, and SpO2 99% on RA
GENERAL: chronically ill-appearing man, thin
HEENT: NC/AT, PERRLA, EOMI, mucous membranes tacky with white 
thick buildup on tongue
NECK: supple
LUNGS: mild scattered rhonchi bilat, no wheezes or rales
HEART: RRR, no MRG, nl S1-S2
ABDOMEN: soft/NT/ND, no masses or HSM, no rebound/guarding
EXTREMITIES: WWP, non-edematous; thin and slightly contracted
NEURO: awake, A&Ox3, CNs II-XII grossly intact, dysarthric 
speech to all sounds, hypomimia, increased tone bilaterally with 
cogwheeling, resting tremor of tongue, jaw, right upper and 
lower extremities and marked bradykinesia.

DISCHARGE EXAM:
VS: T 98.1, BP 145/91, HR 87, RR 18, and SpO2 98% on RA
GENERAL: chronically ill-appearing man, thin, able to 
communicate verbally but speech is difficult to comprehend at 
times
HEENT: NC/AT, PERRLA, EOMI
NECK: supple
LUNGS: mild scattered rhonchi bilat, no wheezes or rales
HEART: RRR, no MRG, nl S1-S2
ABDOMEN: soft/NT/ND, no masses or HSM, no rebound/guarding
EXTREMITIES: WWP, non-edematous; thin and slightly contracted
NEURO: awake, A&Ox3, CNs II-XII grossly intact, dysarthric 
speech, hypomimia, increased tone bilaterally with cogwheeling, 
resting tremor of tongue, jaw, right upper and lower extremities 
and marked bradykinesia.

 
Pertinent Results:
LABS ON ADMISSION:
___ 03:30PM BLOOD WBC-13.8* RBC-4.16* Hgb-12.8* Hct-40.0# 
MCV-96# MCH-30.7 MCHC-31.9 RDW-15.1 Plt ___
___ 03:30PM BLOOD Neuts-86.5* Lymphs-9.2* Monos-3.3 Eos-0.7 
Baso-0.2
___ 03:30PM BLOOD Glucose-83 UreaN-33* Creat-0.9 Na-145 
K-4.0 Cl-109* HCO3-20* AnGap-20
___ 03:30PM BLOOD Calcium-9.1 Phos-2.7# Mg-2.1
___ 03:11PM BLOOD Lactate-1.3

LABS ON DISCHARGE:
___ 06:30AM BLOOD WBC-8.1 RBC-3.67* Hgb-11.0* Hct-34.2* 
MCV-93 MCH-30.0 MCHC-32.2 RDW-15.3 Plt ___
___ 06:30AM BLOOD Glucose-67* UreaN-20 Creat-0.5 Na-140 
K-4.0 Cl-110* HCO3-19* AnGap-15
___ 06:30AM BLOOD Calcium-8.0* Phos-1.1* Mg-2.1

IMAGING / STUDIES:
# CHEST (PORTABLE AP) ___ at 1:13 ___:
The patient is status post median sternotomy.  The heart size is 
top normal. The aorta remains tortuous.  There is mild pulmonary 
vascular congestion. Persistent bibasilar parenchymal opacities 
are re- demonstrated, possibly reflecting chronic aspiration or 
infection.  No large pleural effusion or pneumothorax is 
present.  No acute osseous abnormalities are demonstrated.
IMPRESSION: Chronic bibasilar airspace opacities concerning for 
recurrent aspiration or infection.

 
Brief Hospital Course:
The patient is a ___ year old male with ___ disease and 
schizophrenia who was admitted with worsening ___ 
symptoms and cough.

# ___ disease: He presented with worsening symptoms, in 
particular his speech and swallowing.  During the two dayts 
before admission, he was unable to take his ___ or 
schizophrenia medications.  Per neurology, his physical exam was 
overall similar to that documented in the outpatient setting, so 
was likely not too far from his recent baseline.  Given his 
initial cough, his symptoms likely worsened from the stress of 
an upper respiratory infection or perhaps an aspiration event.  
He was initially started on Parcopa SL disintegrating tablets 
instead of Sinement and Benztropine IM, with some improvement in 
his symptoms.  He was eventually able to take oral medications 
crushed with thickened liquids.  He was likely close to baseline 
at the time of discharge.

# Cough and Leukocytosis:  This was thought to be either 
aspiration pneumonitis vs pneumonia given his infiltrates on 
CXR.  He was treated with Levofloxacin, but his symptoms and 
labs quickly improved, making pneumonitis or viral URI more 
likely.  Antibiotics were stopped.  Influenza DFA swab was 
negative.
 
# Dysphagia / Aspiration: The patient has difficutly swallowing 
at baseline, which likely worsened in the setting of an acute 
stress.  He uses thickened liquids and boost for nutrition, and 
has declined feeding tubes for nutrition in the past.  He was 
transitioned back to his prior diet.  The possibility of a 
feeding tube was discussed, but not pursued at this time.  He 
was evaluated by Speech and Swallow, who felt that he was at 
risk for aspiration, but similar to prior exams.  It was 
recommended that if willing to accept some risk for intermittent 
aspiration, he could continue on his previous diet of 
nectar-thick liquids and pureed solids with 1:1 supervision and 
aspiration precautions.

# Schizophrenia: He was not acutely decompensated during his 
admission despite missing several days of medication.  Once able 
to have limited PO intake, he was restarted on Clozapine.  Since 
he was off it for several days, the Clozapine was restarted at a 
lower dose and slowly uptitrated, with monitoring of his CBC.  
His other psychiatric medications were restarted once able.  He 
will need further increases in his Clozapine back to his prior 
home dose after discharge.  This should be done in conjunction 
with psychiatry recommendations.

# Crohn's disease: Currently in remission.  Per outpatient 
records, patient refuses to taper Prednisone.  He was given 
Methylprednisolone IV instead of Prednisone PO while NPO.  He 
was continued on Metronidazole.

# GERD: Chronic issue, not active during this admission.  He was 
given Lansoprazole instead of Omeprazole given his difficulties 
with swallowing.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN fever 
2. Benzonatate 100 mg PO TID:PRN cough 
3. Carbidopa-Levodopa CR (___) 1 TAB PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Clonazepam 0.5 mg PO QHS 
hold for sedation
 
6. Cyanocobalamin 100 mcg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Benztropine Mesylate 1.5 mg PO DAILY 
9. Meclizine 25 mg PO DAILY 
10. Topiramate (Topamax) 25 mg PO BID 
11. Clozapine 250 mg PO DAILY 
12. Clozapine 200 mg PO HS 
13. PredniSONE 15 mg PO DAILY 
14. MetRONIDAZOLE (FLagyl) 500 mg PO QHS 
15. Senna 1 TAB PO HS 
16. Oseltamivir 75 mg PO Q12H 
day 1 ___  

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever 
2. Benztropine Mesylate 1.5 mg PO DAILY 
3. Clozapine 50 mg PO QAM 
4. Clozapine 125 mg PO HS 
5. Topiramate (Topamax) 25 mg PO BID 
6. Benzonatate 100 mg PO TID:PRN cough 
7. Carbidopa-Levodopa CR (___) 1 TAB PO DAILY 
8. Clonazepam 0.5 mg PO QHS 
hold for sedation
 
9. Clozapine 200 mg PO HS 
10. Cyanocobalamin 100 mcg PO DAILY 
11. Meclizine 25 mg PO DAILY 
12. Omeprazole 20 mg PO DAILY 
13. PredniSONE 15 mg PO DAILY 
14. Senna 1 TAB PO HS 
15. Vitamin D 1000 UNIT PO DAILY 
16. MetRONIDAZOLE (FLagyl) 500 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: dysphagia

Secondary: Parkinsons disease, Schizophrenia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure to participate in your care at ___. You came 
to the hospital because of cough and concerns that your 
Parkinsons disease was worsening.  You were initially treated 
with antibiotics however, we did not continue the antibiotics 
because we did not believe you had an infection. Because of 
worsening problems with swallowing you were seen by the Speech 
and Swallow Team who evaluated your swallowing. We believe that 
you can restart the diet you were on prior to coming to the 
hospital.  You may need a feeding tube in the future, but we 
don't believe you need one now.
 
Followup Instructions:
___